Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:4]#[C:5][H:6].[O:1]=[C:2]([H:3])[O:7][H:8]>>[O:1][C@:2]([H:3])([C:4]#[C:5][H:6])[O:7][H:8],-1.3843848286899998
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:6].[O:1]=[C:2]([O:3][H:4])[C:5][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],4.91899194062
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:12].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:13]([H:14])[H:15],1.7397122928
[C:1]#[C:2][C:6]([H:7])([H:8])[H:9].[C:3](=[O:4])=[O:5]>>[C:1]=[C:2]([C:3]([O:4])=[O:5])[C:6]([H:7])([H:8])[H:9],1.33228423534
[H:1][C:2]=[C:3]([H:4])[C:5]#[C:7][C:8]([H:9])([H:10])[O:11][H:12].[H:6]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[O:11][H:12],-1.96597679983
[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.5467358139300003
[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10])[O:11][H:12]>>[H:10].[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[C:7]([H:8])[H:9])[O:11][H:12],3.80882669693
[H:10].[O:1]=[C:2]/[C:3]([C:4]([H:5])([H:6])[H:7])=[C:8](\[H:9])[O:11][H:12]>>[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-3.6183701589
[C:5]#[C:6][C:7][C:8]([H:9])[H:10].[H:1][O:2][C:3][H:4]>>[H:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7][C:8]([H:9])[H:10],-5.369410625
[C:8]=[C:9]([H:10])[H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11],-3.48583926187
[H:1][C:2]1[O:3][C:4][O:5][C:6]1([H:7])[H:8]>>[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])[H:8],4.23594334594
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:13]([H:14])([H:15])[H:16].[H:12]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16],-5.11757347042
[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[H:10].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[H:10],-6.1824418769800005
[O:1]=[C:2]([C:3](=[O:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3](=[O:4])[C:5]([H:6])([H:7])[H:8].[O:1]=[C:2][C:9]([H:10])([H:11])[H:12],3.2455531689
[H:1][C:2][C:3](=[O:4])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-3.0479141767799995
[H:1][C:2]([H:3])[C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9]>>[C:6]=[C:7]([H:8])[H:9].[H:1][C:2]([H:3])=[C:4][H:5],4.63221749938
[H:1][C:2][C:3]#[C:6][C:7]([H:8])([H:11])[H:12].[H:4][C:5]#[C:9][H:10]>>[H:1][C:2]=[C:3]([H:4])[C:5]([C:6]#[C:7][H:8])[C:9]([H:10])([H:11])[H:12],-2.39750811451
[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[O:8][C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])[C:5]#[C:6][O:8][C:9]([H:10])[H:11].[H:7],4.1535762343
[H:1][C:2]=[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:3]>>[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[O:10][C:11]([H:12])([H:13])[H:14],-5.17973467515
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[H:9]>>[H:1][C:2]#[C:3][O:5][C:6]([H:7])([H:8])[H:9].[H:4],2.074927577
[H:1][C:2]/[C:3]([O:4][H:5])=[C:6](\[O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:7]>>[H:1][C:2]=[C:3]([O:4][H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-3.710707079130002
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]=[O:4]>>[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-1.55450183865
[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[C:14]([H:15])([H:16])[H:17],-5.37354035665
[C:1][C:2]([H:3])([C:4](=[O:5])[H:6])[C:7](=[O:8])[H:9]>>[C:1]=[C:2]([C:4](=[O:5])[H:6])[C:7](=[O:8])[H:9].[H:3],1.56037912792
[O:1]=[C:2]([H:3])[C:4](=[O:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([H:3])/[C:4]=[C:6](/[H:7])[C:8]([H:9])([H:10])[H:11].[O:5],5.5663960063
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7][H:8].[O:9]=[C:10][H:11]>>[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10][H:11],-1.28175793407
[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:9]([H:10])([H:11])[H:12].[O:7][H:8],2.85105055839
[H:15].[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][C:13][H:14]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])[H:15],-3.89840849511
[C:10]#[C:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])=[C:7]([H:8])[H:9]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][C:12]([H:13])([H:14])[H:15],-2.96948805926
[C:1]#[C:2][O:3][C:4][H:5].[C:6]([H:7])[H:8]>>[C:1]#[C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8],-8.090733172739997
